US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(4-fluorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(4-fluorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.114 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(4-fluorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.114 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)F)=O)=O)O1 | C24H23FN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(4-fluorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)F)=O)=O)O1 | InChI=1S/C24H23FN2O3.ClH/c1-26(2)14-21-13-19-11-12-27(15-22(19)30-21)24(29)18-5-3-16(4-6-18)23(28)17-7-9-20(25)10-8-17;/h3-10,13H,11-12,14-15H2,1-2H3;1H
